US07494996B2
Preparation of 1-(2,2,2-Trifluoroethyl)-3-(3,5-dichlorophenyl)-5-methoxy-4,5-dihydro-1,2,4-triazin-6-one (Compound 18)
To a solution of 1-(2,2,2-trifluoroethyl)-3-(3,5-dichlorophenyl)-1,2,4-triazin-6-one (70 mg, 0.21 mmol) dissolved in 3 mL of a 1:1 mixture of ethyl acetate and methanol was added a small scoopula of neutral alumina. After stirring for 20 minutes, the mixture was filtered through a small plug of glass wool and concentrated. The product (80 mg) was afforded in 96% purity and 100% yield.

reactant | 1-(2,2,2-trifluoroethyl)-3-(3,5-dichlorophenyl)-1,2,4-triazin-6-one | 0.21 mmol, 70 mg | FC(CN1N=C(N=CC1=O)C1=CC(=CC(=C1)Cl)Cl)(F)F | C11H6Cl2F3N3O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | 1-(2,2,2-Trifluoroethyl)-3-(3,5-dichlorophenyl)-5-methoxy-4,5-dihydro-1,2,4-triazin-6-one | 80 mg, 100% yield | FC(CN1N=C(NC(C1=O)OC)C1=CC(=CC(=C1)Cl)Cl)(F)F | C12H10Cl2F3N3O2
